US07405230B2
3-Cyclopentyloxy-4-methoxy-N-(4-acetamido-3-carboxyphenyl)-N-(3-pyridylmethyl)aniline
A solution of 3-cyclopentyloxy-4-methoxy-N-(3-carboxy-4-nitrophenyl)-N-(3-pyridylmethyl)aniline (200 mg, 0.43 mmol) in 35 mL of EtOAc and 0.1 mL (1.08 mmol) of acetic anhydride was hydrogenated at atmospheric pressure over 20 mg of PtO2 with stirring for 16 hours. The catalyst was removed by filtration and the solution concentrated. The residue was partitioned between 50 mL of DCM and 100 mL of brine. The organic layer was separated, dried (Na2SO4), and concentrated. The residue was chromatographed over SiO2 using MeOH/DCM (1/20) as eluant to give 105 mg (51% yield) of the target compound.

reactant | 3-cyclopentyloxy-4-methoxy-N-(3-carboxy-4-nitrophenyl)-N-(3-pyridylmethyl)aniline | 0.43 mmol, 200 mg | C1(CCCC1)OC=1C=C(N(CC=2C=NC=CC2)C2=CC(=C(C=C2)[N+](=O)[O-])C(=O)O)C=CC1OC | C25H25N3O6
reactant | acetic anhydride | 1.08 mmol, 0.1 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | EtOAc | 35 mL | CCOC(=O)C | C4H8O2
catalyst | PtO2 | 20 mg | O=[Pt]=O
product | 3-Cyclopentyloxy-4-methoxy-N-(4-acetamido-3-carboxyphenyl)-N-(3-pyridylmethyl)aniline | 105 mg, 51% yield | C1(CCCC1)OC=1C=C(N(CC=2C=NC=CC2)C2=CC(=C(C=C2)NC(C)=O)C(=O)O)C=CC1OC | C27H29N3O5
